US05523280
1-[(Trimethylsilyl)methyl]-4-chloro-3-(2-nitro-3-chlorophenyl)pyrazole (compound 159)
0.85 g of anhydrous potassium carbonate is added to a solution of 1.30 g of 4-chloro-3-(2-nitro-3-chlorophenyl)pyrazole and 0.70 g of (trimethylsilyl)methyl chloride in 30 ml of N,N-dimethylformamide. The reaction mixture is stirred for 12 hours at room temperature and diluted with 100 ml of an ether/H2O (1/1) mixture. The ether phase is dried over MgSO4, and concentrated under reduced pressure. The residual oil is purified by liquid chromatography on a silica column (eluent: heptane/ethyl acetate [50/50]).

reactant | potassium carbonate | 0.85 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloro-3-(2-nitro-3-chlorophenyl)pyrazole | 1.30 g | ClC=1C(=NNC1)C1=C(C(=CC=C1)Cl)[N+](=O)[O-] | C9H5Cl2N3O2
reactant | (trimethylsilyl)methyl chloride | 0.70 g | C[Si](C)(C)CCl | C4H11ClSi
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | heptane ethyl acetate | 100 ml | CCCCCCC.C(C)(=O)OCC
product | 1-[(Trimethylsilyl)methyl]-4-chloro-3-(2-nitro-3-chlorophenyl)pyrazole | C[Si](C)(C)CN1N=C(C(=C1)Cl)C1=C(C(=CC=C1)Cl)[N+](=O)[O-] | C13H15Cl2N3O2Si
